US04322429
2,6-DICHLORO-N-(2,6-DICHLOROBENZOYL)-N-(5-(4-CHLOROPHENYL)-3-ISOXAZOLYL)BENZAMIDE
5-(4-Chlorophenyl)-3-aminoisoxazole (400 milligrams prepared according to the teaching of Examples 11-14) was added to 2,6-dichlorobenzoylchloride (430 milligrams) in 50 ml. toluene and refluxed for 48 hours. The solvent was then evaporated and ethyl alcohol added; upon subsequent heating and filtering the bis acylated product was recovered; m.p. 219°-223° C.

reactant | 5-(4-Chlorophenyl)-3-aminoisoxazole | ClC1=CC=C(C=C1)C1=CC(=NO1)N | C9H7ClN2O
reactant | 2,6-dichlorobenzoylchloride | 430 milligrams | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-DICHLORO-N-(2,6-DICHLOROBENZOYL)-N-(5-(4-CHLOROPHENYL)-3-ISOXAZOLYL)BENZAMIDE | ClC1=C(C(=O)N(C2=NOC(=C2)C2=CC=C(C=C2)Cl)C(C2=C(C=CC=C2Cl)Cl)=O)C(=CC=C1)Cl | C23H11Cl5N2O3
